US07612067B2
B. {4-Chloro-5-[8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazin-3-yl]-thiazol-2-yl}-dimethyl-amine.
Using a procedure analogous to Example 254D, 8-(1-ethyl-propyl)-3-iodo-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine (250 mg, 0.630 mmol) is coupled with (4-chloro-thiazol-2-yl)-dimethyl-amine (154 mg, 0.945 mmol) to provide desired product. 1H-NMR (CDCl3), δ 0.85 (t, J=7.4 Hz, 6H), 1.83 (m, 4H), 2.55 (s, 3H), 3.16 (s, 6H), 3.31 (m, 1H), 6.81 (s, 1H) ppm. ES-MS (m/z): calcd for C18H21ClF3N5S (M+H)+: 431.91; found: 432.2.

reactant | 8-(1-ethyl-propyl)-3-iodo-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.630 mmol, 250 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C(F)(F)F)I | C13H15F3IN3
reactant | (4-chloro-thiazol-2-yl)-dimethyl-amine | 0.945 mmol, 154 mg | ClC=1N=C(SC1)N(C)C | C5H7ClN2S
product | {4-Chloro-5-[8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazin-3-yl]-thiazol-2-yl}-dimethyl-amine | ClC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C(F)(F)F)N(C)C | C18H21ClF3N5S
